US04582909
Preparation of 2,3-dihydro-2-oxo-1H-indole-7-acetic acid phenylmethyl ester
A solution of 20.5 g of 2,3-dihydro-2-oxo-1H-indole-7-acetic acid (0.1 mole) and 4.0 g (0.1 mole) of sodium hydroxide in 200 ml of water is vigorously stirred together with a solution of 20.5 g (0.12 mole) of benzyl bromide and 3.4 g (0.1 mole) of tetrabutylammonium bromide in 300 ml of toluene.

reactant | 2,3-dihydro-2-oxo-1H-indole-7-acetic acid | 0.1 mole, 20.5 g | O=C1NC2=C(C=CC=C2C1)CC(=O)O | C10H9NO3
reactant | sodium hydroxide | 0.1 mole, 4.0 g | [OH-].[Na+]
reactant | benzyl bromide | 0.12 mole, 20.5 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 200 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.1 mole, 3.4 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-dihydro-2-oxo-1H-indole-7-acetic acid phenylmethyl ester | C1(=CC=CC=C1)COC(CC=1C=CC=C2CC(NC12)=O)=O | C17H15NO3
